US07425568B2
Dimethyl[2-(2-phenylchroman-6-yloxy)ethyl]amine
Cesium carbonate (230 mg) and an excess of 2-(dimethylamino)ethyl chloride in ethyl acetate were added into a solution of 2-phenylchroman-6-ol (150 mg) in acetonitrile (5 ml). The reaction mixture was refluxed for 30 minutes. After removing the solvents, the residue was taken up in water and extracted with ethyl acetate. The combined organic layers were washed with water and then with saturated NaCl-solution and dried with Na2SO4. The dimethyl[2-(2-phenylchroman-6-yloxy)-ethyl]amine was crystallised from heptane. 1H NMR (400 MHz, d6-DMSO) δ: 7.43-7.30 (m, 5H), 6.75-6.67 (m, 3H), 5.03 (dd, 1H, J 10.0, 2.2 Hz), 3.95 (t, 2H, J 5.9 Hz), 2.94 (ddd, 1H, J −16.7, 10.9, 5.8 Hz), 2.69 (ddd, 1H, J −16.7, 5.2, 3.3 Hz), 2.58 (t, 2H, J 5.9 Hz), 2.13 (m, 1H), 1.96 (m, 1H).

reactant | Cesium carbonate | 230 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(dimethylamino)ethyl chloride | CN(CCCl)C | C4H10ClN
reactant | 2-phenylchroman-6-ol | 150 mg | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)O | C15H14O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | Dimethyl[2-(2-phenylchroman-6-yloxy)ethyl]amine | CN(CCOC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1)C | C19H23NO2
